US07560569B2
Ethyldiisopropylamine (194 μL) and benzylchloroformate (137 μL) were added dropwise to (2S,4S)-1-[[N-[4-(2-tetrahydropyranyl)oxycarbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (379 mg) in dioxane (5 mL) while the solution was cooled in water. The mixture was stirred at room temperature for 1 hour, followed by addition of 1N hydrochloric acid (0.1 mL) and stirring at room temperature for additional 1 hour. The solvent was evaporated under reduced pressure. The resulting crystal was then washed with diisopropylether and water and was dried under reduced pressure. The dried crystal was purified by silica gel chromatography (eluant:dichloromethane:methanol=10:1) to give (2S,4S)-1-[[N-benzyloxycarbonyl-N-(4-carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (335 mg).

reactant | Ethyldiisopropylamine | 194 μL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | benzylchloroformate | 137 μL | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | (2S,4S)-1-[[N-[4-(2-tetrahydropyranyl)oxycarbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 379 mg | O1C(CCCC1)OC(=O)C12CCC(CC1)(CC2)NCC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C21H30FN3O4
reactant | hydrochloric acid | 1N, 0.1 mL | Cl | ClH
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | (2S,4S)-1-[[N-benzyloxycarbonyl-N-(4-carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 335 mg | C(C1=CC=CC=C1)OC(=O)N(C12CCC(CC1)(CC2)C(=O)O)CC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C24H28FN3O5
